US07585885B2
2-sec-Butylamino-6-methanesulfonyloxy-isonicotinic acid
Add 1 N lithium hydroxide (2 mL) to a solution of 2-sec-butylamino-6-methanesulfonyloxy-isonicotinic acid methyl ester (235 mg, 0.743 mmol) in THF (15 mL) at 0° C. Warm to room temperature and stir for 12 h. Acidify with 5% aqueous HCl to about pH=3, extract with ethyl acetate, dry (magnesium sulfate), and concentrate to give the title compound.

reactant | lithium hydroxide | 1 N, 2 mL | [OH-].[Li+]
reactant | 2-sec-butylamino-6-methanesulfonyloxy-isonicotinic acid methyl ester | 0.743 mmol, 235 mg | COC(C1=CC(=NC(=C1)OS(=O)(=O)C)NC(C)CC)=O | C12H18N2O5S
reactant | HCl | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-sec-Butylamino-6-methanesulfonyloxy-isonicotinic acid | C(C)(CC)NC=1C=C(C(=O)O)C=C(N1)OS(=O)(=O)C | C11H16N2O5S
